US04997843
(c) (±)-cis, trans-2-iodomethyl-5-oxo-4-tetradecyltetrahydrofuran
To a solution of 8.25 g (25.5 mmol) of N,N-dimethyl-2-allylhexadecanamide in THF/ H2O (1:3 v/v, 120 mL) 9.69 g (38.2 mmol) of iodine was added at room temperature and the reaction mixture was stirred for 3 days. Then, the mixture was diluted with 200 mL of ethyl acetate, washed twice with 10% sodium thiosulfate and extracted twice with ethyl acetate. The combined organic layers were dried with sodium sulfate and after evaporation of the solvent it was obtained 11.3 g of a solid that was purified by column chromatography (silica gel, hexane: ethyl acetate 7%) to give 6.98 g of the trans isomer, 0.91 g of a mixture of the cis and trans isomers and 0.42 g of the cis isomer (overall yield 87%).

reactant | N,N-dimethyl-2-allylhexadecanamide | 25.5 mmol, 8.25 g | CN(C(C(CCCCCCCCCCCCCC)CC=C)=O)C | C21H41NO
reactant | THF H2O | 38.2 mmol, 120 mL, 9.69 g | C1CCOC1.O
reactant | iodine | II | I2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | trans-2-iodomethyl-5-oxo-4-tetradecyltetrahydrofuran | 11.3 g | IC[C@@H]1OC([C@H](C1)CCCCCCCCCCCCCC)=O | C19H35IO2
